US07977344B2
8-Bromo-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
2-[(2-Cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (1.579 g) was dissolved in chloroform (15 mL) and was cooled in an ice bath to 1° C. NBS (1.02 g) was added gradually, keeping the reaction temperature below 2° C. The reaction was stirred for 30 mins (with cooling in an ice bath) before being allowed to warm to room temperature. The reaction was then stirred for 6 h. Chloroform (50 mL) was added and the mixture was partitioned with water (50 mL) and was separated using a hydrophobic frit. The organics were evaporated under reduced pressure to give the title compound as a brown foam (1.867 g).

reactant | 2-[(2-Cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.579 g | C1(CC1)CCOC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H21N5O2
reactant | NBS | 1.02 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.867 g | BrC=1N(C2=NC(=NC(=C2N1)N)OCCC1CC1)C1OCCCC1 | C15H20BrN5O2
